### PR TITLE
DFT Matrices

### PR DESCRIPTION
**Pull request by MohanadAhmed**
The pull request contains definitions 403 through 411 (DFT Matrices):
 With the exception of eq_412 the DFT lemmas are defined. Some are filled with Sorry's
There are also auxiliary definitions and simp lemmas to help with the rest.

### CODE REVIEW

File: src/matrix_cookbook/9_special_matrices.lean [hunk 1]
```diff
@@ -39,41 +45,313 @@ det_from_blocks₁₁ _ _ _ _
...
+
+lemma vec_eq_vec_iff (v w: n → R) : 
+  v = w ↔ ∀ k : n, v k = w k := 
+begin
+  split,
+  intros h k, rw h,
+
+  intros h, ext k,
+  specialize h k, exact h,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:179]: This lemma is `function.funext_iff`

File: src/matrix_cookbook/9_special_matrices.lean [hunk 2]
```diff
@@ -39,41 +45,313 @@ det_from_blocks₁₁ _ _ _ _
...
+
+lemma mat_eq_mat_iff (v w: matrix m n R) : 
+  v = w ↔ ∀ (j: m)(k: n), v j k = w j k:= 
+begin
+  split,
+  rintros h i j, rw h at *,
+  intro h,
+  ext i j, specialize h i j, exact h,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:188]: This lemma is `matrix.ext_iff`

File: src/matrix_cookbook/9_special_matrices.lean [hunk 3]
```diff
@@ -39,41 +45,313 @@ det_from_blocks₁₁ _ _ _ _
...
+
+-- variable {N: ℕ}
+/- Are we really forced to have the DFT matrix 
+noncomputable because the complex exponnetial function is 
+non-computable?
+-/
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:194]: Yes; these things are genuinely non-computable, trigonometric functions are at best approximations in non-symbolic software.

File: src/matrix_cookbook/9_special_matrices.lean [hunk 4]
```diff
@@ -117,46 +395,46 @@ end
 
 /-! ### Nilpotent -/
 
-lemma eq_428 : sorry := sorry
+-- lemma eq_428 : sorry := sorry
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:398]: I realize I've not been particularly consistent, but I'd rather leave these uncommented as that detects errors where I wrote the same number twice.

If they're annoying when editing, you can just write `#exit` on the line above them to stop Lean processing them.

File: src/matrix_cookbook/9_special_matrices.lean [hunk 5]
```diff
@@ -39,41 +45,313 @@ det_from_blocks₁₁ _ _ _ _
...
+non-computable?
+-/
+
+-- eq_403 : Twiddle Factors
+noncomputable def Wkn {N: ℕ} (k n: fin N) : ℂ :=  
+complex.exp(complex.I * 2 * π * k * n / N)
+
+-- Forward DFT Matrix
+noncomputable def W_N {N: ℕ}: matrix (fin N) (fin N) ℂ :=
+λ (k n: fin N), Wkn k n
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:202]: Strictly this should use `matrix.of`
```suggestion
noncomputable def W_N {N : ℕ}: matrix (fin N) (fin N) ℂ :=
of $ λ k n, Wkn k n
```

File: src/matrix_cookbook/9_special_matrices.lean [hunk 6]
```diff
@@ -39,41 +45,313 @@ det_from_blocks₁₁ _ _ _ _
...
+
+-- Inverse Twiddle Factors
+noncomputable def iWkn {N: ℕ} (k n: fin N) : ℂ :=  
+complex.exp(-complex.I * 2 * π * k * n / N)
+
+-- Inverse DFT Matrix
+noncomputable def iW_N {N: ℕ} : matrix (fin N) (fin N) ℂ :=
+λ (k n: fin N), iWkn k n
```
Comment (eric-wieser) [inline src/matrix_cookbook/9_special_matrices.lean:210]: I would suggest merging these; there's no need to have them as separate definitions

**Review by eric-wieser — COMMENTED** [review]
Some initial comments.

It would be great to get all the inv lemmas into mathlib in the near future!
